US06958340B2
To a solution of tert-butyl 3-formyl-5-methylphenylcarbamate (200 mg, 0.85 mmol) and acetylpiperazine (131 mg, 1.02 mmol) in 0.1 mL HOAc and 4 mL dichloroethane was added NaBH(OAc)3 (216 mg, 1.02 mmol) at room temperature. After 2 hours additional acetylpiperazine (131 mg, 1.02 mmol) and NaBH(OAc)3 (216 mg, 1.02 mmol) were added. After 2 hours the mixture was diluted with saturated NaHCO3. The layers were separated and the aqueous extracted with CH2Cl2 (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column chromatography (5% MeOH/CH2Cl2) gave tert-butyl 3-[(4-acetylpiperazin-1-yl)methyl]-5-methylphenylcarbamate as a white foam:

reactant | tert-butyl 3-formyl-5-methylphenylcarbamate | 0.85 mmol, 200 mg | C(=O)C=1C=C(C=C(C1)C)NC(OC(C)(C)C)=O | C13H17NO3
reactant | acetylpiperazine | 1.02 mmol, 131 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | NaBH(OAc)3 | 1.02 mmol, 216 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetylpiperazine | 1.02 mmol, 131 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | NaBH(OAc)3 | 1.02 mmol, 216 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | HOAc | 0.1 mL | CC(=O)O | C2H4O2
solvent | dichloroethane | 4 mL | ClC(C)Cl | C2H4Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl 3-[(4-acetylpiperazin-1-yl)methyl]-5-methylphenylcarbamate | C(C)(=O)N1CCN(CC1)CC=1C=C(C=C(C1)C)NC(OC(C)(C)C)=O | C19H29N3O3
